US07767672B2
tert-butyl 3-(2-(ethoxycarbonyl)ethynyl)-3-hydroxyazetidine-1-carboxylate
n-butyl lithium (1.17 mmol, 0.47 ml, 2.5 M) was added dropwise to a solution of diisopropylamine (130 mg, 1.29 mmol, 0.18 ml) in THF (8 ml) at −78° C. The solution was warmed to 0° C., stirred for 15 mins, and cooled back to −78° C. Ethyl propiolate (126 mg, 1.29 mmol, 0.13 ml) was added dropwise and the solution stirred for 1 hr at −78° C. A solution of tert-butyl 3-oxoazetidine-1-carboxylate (200 mg, 1.17 mmol) in THF (2 ml) was added dropwise, stirring continued for 30 mins, and the solution warmed to 0° C. and stirred for a further 15 mins. The reaction was quenched with Sat NH4Cl (20 ml) and extracted into ethyl acetate (20 ml), dried (Na2SO4), and concentrated to give a brown oil. The oil was purified by flash column chromatography eluting with 30% ethylacetate/hexanes to give the title compound as a colorless oil 0.20 g, 64%. 1H NMR (CDCl3, 400 MHz) 1.33 (3H, t), 1.48 (9H, s), 2.92 (1H, s), 4.04 (2H, d), 4.22-4.31 (4H, m).

reactant | n-butyl lithium | 1.17 mmol, 2.5 M, 0.47 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.29 mmol, 0.18 ml, 130 mg | C(C)(C)NC(C)C | C6H15N
reactant | Ethyl propiolate | 1.29 mmol, 0.13 ml, 126 mg | C(C#C)(=O)OCC | C5H6O2
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 1.17 mmol, 200 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-(ethoxycarbonyl)ethynyl)-3-hydroxyazetidine-1-carboxylate | 0.20 g, 64% | C(C)OC(=O)C#CC1(CN(C1)C(=O)OC(C)(C)C)O | C13H19NO5
